US04230628
A solution 4.6 g. of 11-bromoundecanol and 1.6 g. of sodium cyanide in 40 ml. of dimethylformamide is heated at 80° C. for 18 hours, cooled, and poured into ice-water. The mixture is extracted with methylene chloride and the extract is dried over anhydrous magnesium sulfate. Evaporation of the solution affords 12-hydroxydodecanonitrile as a yellow oil.

reactant | 11-bromoundecanol | BrCCCCCCCCCCCO | C11H23BrO
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 12-hydroxydodecanonitrile | OCCCCCCCCCCCC#N | C12H23NO
